US08106043B2
tert-Butyl 2-hydroxyethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate:
To a stirred solution of 2-(2-hydroxyethylamino)-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone (470 mg, 1.581 mmol) in dioxane (10 mL) and triethylamine (0.444 mL, 3.16 mmol) was added di-tert-butyl dicarbonate (362 mg, 1.660 mmol). The resulting mixture was stirred for 30 minutes at room temperature. The mixture was then diluted with ethyl acetate and washed three times with a 1:1 mixture of water and saturated sodium carbonate. The organic phase was dried, filtered, and concentrated giving a pale yellow foam (625 mg, 99%). 1H NMR (DMSO-d6) δ 8.35-8.30 (m, 1H), 7.99-7.91 (m, 1H), 7.56-7.48 (m, 1H), 4.67-4.59 (m, 1H), 4.26-4.21 (m, 2H), 3.96-3.88 (m, 2H), 3.51-3.43 (m, 2H), 3.31-3.21 (m, 4H), 1.38, 1.31 (2s, 9H); ESI-MS (m/z, %): 420 (M+Na, 47), 398 (MH+, 34), 320 (35), 298 (100).

reactant | 2-(2-hydroxyethylamino)-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone | 1.581 mmol, 470 mg | OCCNCC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C12H15N3O4S
reactant | triethylamine | 3.16 mmol, 0.444 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.660 mmol, 362 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-hydroxyethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate | 625 mg, 99% | OCCN(C(OC(C)(C)C)=O)CC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C17H23N3O6S
